US05654307
A mixture of 4-methylthiopyrido[4,3-d]pyrimidine (174 mg, 0.97 mmol), and aniline (186.2 mg, 1.99 mmol) in EtOH (2 mL) is refluxed under N2 for 12 h. Cooling to 0° C. forms a solid which is filtered to yield 4-anilinopyrido[4,3-d]pyrimidine (34.5 mg, 16%). 1H NMR (DMSO) δ 10.29 (1H, brs), 9.86 (1H, s), 8.82 (1H, d, J=5.8 Hz), 8.72 (1H, s), 7.85 (2H, d, J=7.5 Hz), 7.66 (1H, d, J=5.5 Hz), 7.45 (2H, t, J=8.0 Hz), 7.23 (1H, t, J=7.3 Hz).

reactant | 4-methylthiopyrido[4,3-d]pyrimidine | 0.97 mmol, 174 mg | CSC=1C2=C(N=CN1)C=CN=C2 | C8H7N3S
reactant | aniline | 1.99 mmol, 186.2 mg | NC1=CC=CC=C1 | C6H7N
solvent | EtOH | 2 mL | CCO | C2H6O
product | 4-anilinopyrido[4,3-d]pyrimidine | 34.5 mg, 16% | N(C1=CC=CC=C1)C=1C2=C(N=CN1)C=CN=C2 | C13H10N4
